USRE042930E1
Et3N (4.95 mL, 35.52 mmol) and 2-bromoethanol (3.02 mL, 42.62 mmol) were added to (1S,3S,7S,10R,11S,12S,16R)-7,11-dihydroxy-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-4-oxa-17-azabicyclo[14.1.0]heptadecane-5,9-dione (3.50 g, 7.10 mmol) in acetonitrile (35 mL) and heated to 72.5° C. After 20 hr, the reaction mixture was cooled to room temperature, concentrated to dryness through rotary vacuum distillation. The crude was dissolved in ethyl acetate (50 mL) and mixed with deionized water (35 mL). The mixture was extracted with ethyl acetate (3×35 mL), dried over Na2SO4, filtered, concentrated, crystallized in acetonitrile (35 mL), washed with acetonitrile (2×5 mL), and dried in vacuum oven at 45.5° C. overnight to isolate (1S,3S,7S, 10R,11S,12S,16R)-7,11-dihydroxy-17-(2-hydroxyethyl)-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-4-oxa-17-azabicyclo[14.1.0]heptadecane-5,9-dione as a white crystalline powder (2.60 g, HPLC AP 97.1, 68.2% yield).

reactant | Et3N | 35.52 mmol, 4.95 mL | CCN(CC)CC | C6H15N
reactant | 2-bromoethanol | 42.62 mmol, 3.02 mL | BrCCO | C2H5BrO
reactant | (1S,3S,7S,10R,11S,12S,16R)-7,11-dihydroxy-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-4-oxa-17-azabicyclo[14.1.0]heptadecane-5,9-dione | 7.10 mmol, 3.50 g | O[C@H]1CC(O[C@@H](C[C@@H]2N[C@@H]2CCC[C@@H]([C@@H]([C@H](C(C1(C)C)=O)C)O)C)/C(=C/C=1N=C(SC1)C)/C)=O | C26H40N2O5S
solvent | acetonitrile | 35 mL | C(C)#N | C2H3N
product | (1S,3S,7S, 10R,11S,12S,16R)-7,11-dihydroxy-17-(2-hydroxyethyl)-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-4-oxa-17-azabicyclo[14.1.0]heptadecane-5,9-dione | 68.2% yield | O[C@H]1CC(O[C@@H](C[C@@H]2N([C@@H]2CCC[C@@H]([C@@H]([C@H](C(C1(C)C)=O)C)O)C)CCO)/C(=C/C=1N=C(SC1)C)/C)=O | C28H44N2O6S
